US06660744B1
N-benzyl-N-phenyl-N-methylamine (4.41 g, 0.0224 mol) was dissolved in anhydrous dichloromethane (150 mL) and 2,4,4,6-tetrabromocyclohexadiene-1-one(9.16 g, 0.0224 mol) was added in 10 equal portions over a 30 min. period. Stirring was continued at ambient temperature for 20 hours. The organic phase was successively washed with 0.5N solution of sodium hydroxide in water (100 mL), 1N solution of sodium hydroxide in water (100 mL), water (120 mL) and brine (120 mL). The organic phase was dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography on silica using ethyl acetate/n-heptane (1:99) as mobile phase to yield N-benzyl-N-(4-bromophenyl)-N-methylamine (3.52 g, 0.0127 mol) as a colorless oil.

reactant | N-benzyl-N-phenyl-N-methylamine | 0.0224 mol, 4.41 g | C(C1=CC=CC=C1)N(C)C1=CC=CC=C1 | C14H15N
reactant | 2,4,4,6-tetrabromocyclohexadiene-1-one | 0.0224 mol, 9.16 g | BrC=1C(C(=CC(C1)(Br)Br)Br)=O | C6H2Br4O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N-benzyl-N-(4-bromophenyl)-N-methylamine | 0.0127 mol, 3.52 g | C(C1=CC=CC=C1)N(C)C1=CC=C(C=C1)Br | C14H14BrN
